US08119806B2
Methyl (1S,3R,4S)-3-hydroxy-4-methoxy-cyclopentanecarboxylate
Methyl (3S,4R)-3,4-dihydroxycyclopentanecarboxylate (0.481 g, 3 mmol), freshly prepared silver oxide (0.348 g, 1.500 mmol) and methyl iodide (0.375 ml, 6.00 mmol) were combined in DMF and allowed to stir for 3 hrs. The reaction mixture was filtered through celite and washed with 15 ml of ether. The organic filtrate was washed 2× with brine, dried over sodium sulfate and evaporated. Purification by silica gel chromatography eluting with 20-40% acetone hexane gave the title compound. 1H NMR (500 MHz, CDCl3) δ 2.01-2.18 (m, 4H), δ 2.48 (s, br, 1H), δ 2.77 (m, 1H), δ 3.40 (s, 3H) δ 3.6-3.65 (m, 1H), δ 3.71 (s, 3H), δ 4.10 (m, 1H)

reactant | Methyl (3S,4R)-3,4-dihydroxycyclopentanecarboxylate | 3 mmol, 0.481 g | O[C@H]1CC(C[C@H]1O)C(=O)OC | C7H12O4
reactant | methyl iodide | 6.00 mmol, 0.375 ml | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | silver oxide | 1.500 mmol, 0.348 g | [Ag]=O
product | Methyl (1S,3R,4S)-3-hydroxy-4-methoxy-cyclopentanecarboxylate | O[C@@H]1C[C@@H](C[C@@H]1OC)C(=O)OC | C8H14O4
